US04027029
An amount of 105 g (0.021 mole) of hydrazine hydrate is added to a solution of 5.41 g (0.01 mole) of N,N-diethyl-1-(2-benzoyl-4-chlorophenyl)-5-(phthalimidomethyl)-1H-1,2,4-triazole-3-carboxamide in 150 ml of ethanol, and the reaction mixture stirred for 16 hours at room temperature and for a further 5 hours at 60°. The formed phthalic acid hydrazide is then filtered off, and the filtrate concentrated in vacuo to dryness. Ice water is added to the residue, and extraction performed twice with ethyl acetate. The organic phase is washed twice with ice cold 1N sodium hydroxide solution, once with ice cold 1N hydrochloride acid solution, and twice with water. After drying of the solution over sodium sulphate, the solvent is evaporated off in vacuo. After recrystallisation from benzene/cyclohexane, the residue yields N,N-diethyl-6-phenyl-8-chloro-4H-s-triazolo[1,5-a] [1,4]benzodiazepine-2-carboxamide, M.P. 175°-177°.

reactant | hydrazine hydrate | 0.021 mole, 105 g | O.NN
reactant | N,N-diethyl-1-(2-benzoyl-4-chlorophenyl)-5-(phthalimidomethyl)-1H-1,2,4-triazole-3-carboxamide | 0.01 mole, 5.41 g | C(C)N(C(=O)C1=NN(C(=N1)CN1C(C=2C(C1=O)=CC=CC2)=O)C2=C(C=C(C=C2)Cl)C(C2=CC=CC=C2)=O)CC | C29H24ClN5O4
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N,N-diethyl-6-phenyl-8-chloro-4H-s-triazolo[1,5-a] [1,4]benzodiazepine-2-carboxamide | C(C)N(C(=O)C1=NN2C(CN=C(C3=C2C=CC(=C3)Cl)C3=CC=CC=C3)=N1)CC | C21H20ClN5O
